Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ y/o man with a h/o hypertension, obesity, 
current tobacco use (cigars), gout and family history of 
premature CAD who presents to the ED with chest pain.

The patient reports that he first developed left-sided ___ 
chest pain the day before admission which radiated to the neck, 
posterior shoulder, and down the left arm. He reports that the 
pain would last for about 30 minutes at a time and occurred ___ 
times over the course of the day. The pain was first present 
when he woke up in the morning the day before admission. He 
reports that the pain is sharp "like a knife" and is worse when 
he is moving his arms around and when he is exerting himself. He 
noted that he officiates basketball games recreationally and 
noted that when he went to pick up a basketball, the pain 
worsened. He also reports that the pain sometimes occurs when 
climbing stairs. He took 2 Aleve without much relief. He drove 
himself to the ED.

Overnight, he reports that the chest pain was around ___ and 
on the day if admission it was a ___. The patient reported some 
posterior left shoulder pain as well, but denied any dyspnea, 
fevers, chills, nausea, vomiting, or recent travel. He last ate 
around ___ pm yesterday.

There is no history of blood clots. He has no known cardiac 
disease. He states his brother had an MI and had a stent placed 
at age ___. His mom had an MI when she was around ___. He smokes 
cigars. He has never had a stress test in the past.
 
In the ED, Initial vitals: Temp: 98.2 HR: 76 BP: 145/87 Resp: 18 
O2 Sat: 97%.  EKG: Heart Rate: 79; Rhythm: Sinus; ECG Axis: 
Normal; Intervals: Normal; Unchanged from previous. Labs/studies 
notable for: Trop-T: <0.01. CXR unremarkable. Cardiology was 
consulted given inability to obtain a stress test in the ED 
given the holiday and recommended admission to their service 
given he is moderate risk for ACS. He was administered a full 
dose of ASA in the ED. Patient was admitted to cardiology for 
further evaluation and management.

REVIEW OF SYSTEMS:  
Positive for chest pain as above. Negative for shortness of 
breath, swelling, nausea, vomiting, or diaphoresis.
 
Past Medical History:
- Hypertension  
- Dyslipidemia  
- Gout
- Tobacco use
 
Social History:
___
Family History:
Brother with stent placement in age ___. Mother with MI at age 
___.
 
Physical Exam:
On admission
GENERAL: Well-developed, well-nourished young man in NAD. Mood, 
affect appropriate.
VITALS:  T 98.3 PO BP 142/94 HR 62 RR 18 O2 Sat 97% on RA
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. No xanthelasma.
NECK: No JVD appreciated.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs, rubs, gallops.
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles, wheezes or rhonchi.
ABDOMEN: Soft, non-tender, not distended. No HSM or tenderness.
EXTREMITIES: No clubbing, cyanosis or edema.
SKIN: No ulcers, scars.
PULSES: Distal pulses palpable and symmetric.

At discharge
GENERAL: Well-developed, well-nourished, in NAD. Mood, affect 
appropriate.
VITALS: T 97.9 BP 133/87 HR 66RR 18 O2 Sat 96% on RA
HEENT: NCAT. Sclera anicteric.
NECK: No JVD appreciated.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs, rubs, gallops. 
LUNGS: Resp were unlabored. No crackles, wheezes or rhonchi.
ABDOMEN: Soft, non-tender, not distended. No HSM or tenderness.
EXTREMITIES: No clubbing, cyanosis or edema.
SKIN: No ulcers, scars.
PULSES: Distal pulses palpable and symmetric
 
Pertinent Results:
___ 05:40AM BLOOD WBC-7.0 RBC-5.56 Hgb-14.5 Hct-45.5 MCV-82 
MCH-26.1 MCHC-31.9* RDW-14.8 RDWSD-43.8 Plt ___
___ 05:40AM BLOOD Glucose-104* UreaN-10 Creat-0.7 Na-144 
K-4.9 Cl-105 HCO3-18* AnGap-21*

___ 05:40AM BLOOD cTropnT-<0.01
___ 10:28AM BLOOD cTropnT-<0.01

___ CXR
Lung volumes are low. The cardiomediastinal and hilar contours 
are normal. No focal consolidations are seen. There is no 
pulmonary edema or pleural abnormality.
IMPRESSION: No acute cardiopulmonary abnormality.
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with a h/o hypertension, obesity, 
current tobacco use (cigars), gout and family history of 
premature CAD who presents to the ED with chest pain.

ACUTE ISSUES
# Chest pain. Patient presented with 1 day of chest pain, 
described as sharp/stabbing and intermittent, with some 
component worsened by exertion and movement. Patient has a few 
CAD risk factors including hypertension, hyperlipidemia tobacco 
use, and pertinent family history which increase his risk of 
ACS. However, reassuring data included negative troponin-T, 
normal EKG, and qualities of the chest pain that are atypical 
for ischemia. He had no tachycardia or hypoxemia to suggest 
DVT/pulmonary embolus. It was recommended that the patient 
undergo a stress exercise test, which was scheduled on ___. 
However, the patient declined to stay for the stress test. He 
was informed of the risk of myocardial infarction leading to 
death if his current presentation represented biomarker negative 
unstable angina. He was continued on daily aspirin, atorvastatin 
and 1 long-acting anti-ischemic medications (calcium channel 
blocker and ACE-inhibitor) with no changes in medications at 
discharge.

CHRONIC ISSUES
# Hypertension. He was continued on his home lisinopril and 
verapamil without change.

TRANSITIONAL ISSUES
[ ] Patient left against medical advice. 
[ ] Ensure follow up with PCP including outpatient stress 
treadmill test
[ ] Patient's BPs were elevated in hospital with BP 140s. Please 
follow up and uptitrate anti-hypertensive medications as needed.
[ ] Tobacco cessation counseling
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Colchicine 0.6 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Verapamil SR 240 mg PO Q24H 
6. Aspirin 81 mg PO DAILY
 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  Colchicine 0.6 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  Verapamil SR 240 mg PO Q24H
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Chest pain
-Hypertension
-Hyperlipidemia
-Tobacco use (cigars)
-Family history of premature coronary artery disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

Thank you for coming to ___.

Why were you admitted?
- You were admitted for chest pain

What happened while you were in the hospital?
- We recommended that you undergo a stress treadmill test on 
___ to look for signs of damage to your heart
- However, you declined to stay in the hospital. You were aware 
that if your chest pain gets worse, this can lead to a heart 
attack and that you could die.
- You had some labs which were reassuring. It helps reassure us 
that you're not having an active heart attack, but we are not 
able to rule out heart damage

What should you do when you leave the hospital?
- You left against medical advice
- If you have recurrence of your chest pain or shortness of 
breath, you should go to the ER immediately
- Please follow up with your PCP immediately and schedule a 
treadmill stress test (___). Unfortunately, we were 
unable to make an appointment for you before you left the 
hospital, since it is a holiday.

It was a pleasure taking care of you. We wish you all the best.

- Your ___ Team
 
Followup Instructions:
___